US08202858B2
4-[2-(4-Cyclobutylmethyl-piperazin-1-yl)-2-oxo-ethyl]-3-methyl-benzoic Acid Methyl Ester
Oxalyl chloride (0.36 ml, 3.3 mmol) was added to a solution of 4-carboxymethyl-3-methyl-benzoic acid methyl ester from Example E32 (687 mg, 3.3 mmol) in dichloromethane (20 ml) and few drops of DMF. The mixture was stirred for 3 h at room temperature, concentrated in vacuo and azeotroped with toluene. The residue was dissolved in dichloromethane (10 ml) and added to a solution of 1-cyclobutylmethyl-piperazine dihydrochloride (750 mg, 3.3 mmol) in dichloromethane (10 ml) and DIEA (1.73 ml, 9.9 mmol) at 0° C. The mixture was stirred for 20 h at room temperature and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 3% methanol:97% dichloromethane) to yield the title compound (528 mg, 46%).

reactant | Oxalyl chloride | 3.3 mmol, 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-carboxymethyl-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CC(=O)O)C)=O | C11H12O4
reactant | 1-cyclobutylmethyl-piperazine dihydrochloride | 3.3 mmol, 750 mg | Cl.Cl.C1(CCC1)CN1CCNCC1
reactant | DIEA | 9.9 mmol, 1.73 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[2-(4-Cyclobutylmethyl-piperazin-1-yl)-2-oxo-ethyl]-3-methyl-benzoic Acid Methyl Ester | 528 mg, 46% | COC(C1=CC(=C(C=C1)CC(=O)N1CCN(CC1)CC1CCC1)C)=O | C20H28N2O3
